US06569886B2
Preparation of 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfenyl-5-trimethylacetoxypyrazole.
To the solution of 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfenyl-5-hydroxypyrazole (7.00 g, 16.6 mmol) and pyridine (4.91 g, 62.1 mmol) in 1,2-dichloroethane at room temperature was added trimethylacetyl chloride (4.37 g, 36.2 mmol) dropwise. Ice bath was used to maintain the temperature of the reaction. After 20 hr at room temperature, the orgainc layer was washed with five times of aqueous KHS04 till the aqueous solution was at pH 1. The orgainc layer was then dried (Mg SO4) and concentrated to give a solid residue. Upon chromatographic purification via silica gel column of the solid residue, after trituration with pentane, a off white solid (2.403 g, 28.6% yield, 97.0% HPLC puriety) was provided as the desired product, m. p. 82-83 C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfenyl-5-hydroxypyrazole | 16.6 mmol, 7.00 g | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1O)SC(F)(F)F)C#N | C12H3Cl2F6N3OS
reactant | pyridine | 62.1 mmol, 4.91 g | N1=CC=CC=C1 | C5H5N
reactant | trimethylacetyl chloride | 36.2 mmol, 4.37 g | CC(C(=O)Cl)(C)C | C5H9ClO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-(2,6-Dichloro-4-trifluoromethylphenyl)-3-cyano-4-trifluoromethylsulfenyl-5-trimethylacetoxypyrazole | 28.6% yield | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1N=C(C(=C1OC(C(C)(C)C)=O)SC(F)(F)F)C#N | C17H11Cl2F6N3O2S
